US07307084B2
26. 2,3-Dimethyl-8-phenyl-6,7,8,9-tetrahydro-3H-imidazo[4,5-h]quinoline-5-carboxylic Acid
A suspension of 12 g (3.4 mmol) ethyl 2,3-dimethyl-8-phenyl-6,7,8,9-tetrahydro-3H-imidazo[4,5-h]quinoline-5-carboxylate in 20 ml dioxane and 12 ml 2N aqueous sodium hydroxide was heated to 100° C. until no starting material was left. The mixture was cooled down and neutralized with 2N hydrochloric acid. The precipitate was collected, washed with water and dried. The crude product was recrystallized from ethanol to yield 0.97 g (88%) of the title compound as a colourless solid. m.p. 325-326° C.

reactant | ethyl 2,3-dimethyl-8-phenyl-6,7,8,9-tetrahydro-3H-imidazo[4,5-h]quinoline-5-carboxylate | 3.4 mmol, 12 g | CC1=NC2=C(C=C(C=3CCC(NC23)C2=CC=CC=C2)C(=O)OCC)N1C | C21H23N3O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | sodium hydroxide | 2N, 12 ml | [OH-].[Na+]
product | 2,3-Dimethyl-8-phenyl-6,7,8,9-tetrahydro-3H-imidazo[4,5-h]quinoline-5-carboxylic Acid | 0.97 g, 88% | CC1=NC2=C(C=C(C=3CCC(NC23)C2=CC=CC=C2)C(=O)O)N1C | C19H19N3O2
